* source ADSDSA
V_V1         N00337 0 220
V_V2         N00403 0  
+PULSE 0 5 0 1n 1n 8u 10u
M_M1         N00365 N00403 0 0 IRFP460
L_L1         N00337 N00365  350uH  
L_L2         0 N00743  350uH  
D_D1         N00743 N00765 MUR860 
C_C1         0 N00765  10u  TC=0,0 
R_R1         0 N00765  1k TC=0,0 
Kn_K1         L_L1 L_L2     1
