* source FLYBACK
V_Vin         N02665 0 DC 220 AC 0Vac 
V_V2         N09380 0  
+PULSE 0 10 0 1n 1n 6u 20u
R_Rload         0 N03612  {load}  
X_TX1    N02665 N09355 N03626 0 SCHEMATIC1_TX1 
D_D1         N03626 N03612 Dbreak 
C_C1         N03612 0  100u  
X_M1         N09355 N09380 0 IRF840AL
R_R1         N09589 N02665  18k  
C_C2         N09589 N02665  47n  TC=0,0 
D_D2         N09355 N09589 MUR860 
.PARAM  load=10

.subckt SCHEMATIC1_TX1 1 2 3 4  
K_TX1         L1_TX1 L2_TX1 .99
L1_TX1         1 2 1u
L2_TX1         4 3 0.5u
.ends SCHEMATIC1_TX1
